US07696224B2
2.1 A solution of 1.44 g of 3,4-diamino-2-chloropyridine and 9.06 g of (4-nitrophenyl)acetic acid in 10 ml of polyphosphoric acid is stirred at 80° for 16 hours. The mixture is subsequently poured into ice-water, neutralised using NaOH, the deposited crystals are separated off and subjected to conventional work-up. The organic phase yields 2.2 g of 4-chloro-2-(4-nitrophenylmethyl)-3H-imidazo[4,5-c]pyridine (“4”).

reactant | 3,4-diamino-2-chloropyridine | 1.44 g | NC=1C(=NC=CC1N)Cl | C5H6ClN3
reactant | (4-nitrophenyl)acetic acid | 9.06 g | [N+](=O)([O-])C1=CC=C(C=C1)CC(=O)O | C8H7NO4
reactant | NaOH | [OH-].[Na+]
product | 4-chloro-2-(4-nitrophenylmethyl)-3H-imidazo[4,5-c]pyridine | 2.2 g | ClC1=NC=CC2=C1NC(=N2)CC2=CC=C(C=C2)[N+](=O)[O-] | C13H9ClN4O2
